US07405210B2
1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-phenylaminoethyl)amide
The title compound was prepared as outlined in EXAMPLE 1 from 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 15) and 2-phenylaminoethylamine to give the title compound as a pale yellow solid.

reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | N1C(=CC=2C1=CN=CC2)C(=O)O | C8H6N2O2
reactant | 2-phenylaminoethylamine | C1(=CC=CC=C1)NCCN | C8H12N2
product | 1H-Pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-phenylaminoethyl)amide | C1(=CC=CC=C1)NCCNC(=O)C1=CC=2C(=CN=CC2)N1 | C16H16N4O
